US06809097B1
5-((4-Cyano-3-(2-methoxyethoxy)anilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (840 mg, 2.4 mmol) was added in portions to a mixture of biphenyl (8 ml) and phenyl ether (22 ml) at 250° C. and the mixture stirred at that temperature for 30 minutes. The mixture was allowed to cool, hexane was added and the solid product collected by filtration and recrystallised from methylene chloride/methanol/hexane to give 6-cyano-7-(2-methoxyethoxy)-1,4-dihydroquinolin-4-one (230 mg, 38%).

reactant | 5-((4-Cyano-3-(2-methoxyethoxy)anilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 2.4 mmol, 840 mg | C(#N)C1=C(C=C(NC=C2C(OC(OC2=O)(C)C)=O)C=C1)OCCOC | C17H18N2O6
reactant | biphenyl | 8 ml | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | phenyl ether | 22 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | CCCCCC | C6H14
product | 6-cyano-7-(2-methoxyethoxy)-1,4-dihydroquinolin-4-one | 230 mg, 38% | C(#N)C=1C=C2C(C=CNC2=CC1OCCOC)=O | C13H12N2O3
